US05371100
1H-1,2,4-Triazole (42.1 g) was added portionwise to a dispersion of 60% sodium hydride in oil (22.2 g) in dimethylformamide (300 ml) under ice-cooling, followed by stirring for 15 minutes. To the mixture was added a solution of the crude product of 2-(4-chlorophenyl)-2-[(1R)-1-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)ethyl]oxirane (52 g) in dimethylformamide (50 ml), followed by stirring for 4 hours at 80° C. After cooling, the reaction mixture was poured into ice water (400 ml) and extracted three times with ethyl acetate (200 ml). The organic layer was washed with water and saturated saline, dried over anhydrous magnesium sulfate and distilled under reduced pressure. The residue was subjected to silica gel column chromatography (eluent: hexane/ethyl acetate=3:2→ethyl acetate/acetone=4:1) to give (3R)-2-(4-chlorophenyl)-3-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)-1-(1H-1,2,4-triazol-1-yl)-2-butanol (53 g) as a colorless amorphous substance.

reactant | 1H-1,2,4-Triazole | 42.1 g | N1N=CN=C1 | C2H3N3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-(4-chlorophenyl)-2-[(1R)-1-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)ethyl]oxirane | 52 g | ClC1=CC=C(C=C1)C1(OC1)[C@@H](C)OC1OCCCC1 | C15H19ClO3
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | (3R)-2-(4-chlorophenyl)-3-(3,4,5,6-tetrahydro-2H-pyran-2-yloxy)-1-(1H-1,2,4-triazol-1-yl)-2-butanol | 53 g | ClC1=CC=C(C=C1)C(CN1N=CN=C1)([C@@H](C)OC1OCCCC1)O | C17H22ClN3O3
